US08859591B2
To a solution of 1-(6-chloropyridin-3-yl)-3-methylbutan-1-one (1.0 g, 5.1 mmol) and 4-(trifluoromethyl)-1H-pyrazole (766 mg, 5.62 mmol) in anhydrous DMF (20 mL) was added potassium carbonate (2.12 g, 15.3 mmol). The mixture was stirred at 50° C. for 6 h. The reaction mixture was poured into brine (30 mL) and extracted with ethyl acetate (30 mL*2). The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The crude residue was purified by silica gel chromatography to give 3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butan-1-one (1.4 g) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 8.92 (d, J=2.0 Hz, 1H), 8.85 (s, 1H), 8.33 (dd, J=2.0, 8.4 Hz, 1H), 8.02 (d, J=8.4 Hz, 1H), 7.88 (s, 1H), 2.79 (d, J=6.8 Hz, 2H), 2.31-2.21 (m, 1H), 0.96 (d, J=6.8 Hz, 6H).

reactant | 1-(6-chloropyridin-3-yl)-3-methylbutan-1-one | 5.1 mmol, 1.0 g | ClC1=CC=C(C=N1)C(CC(C)C)=O | C10H12ClNO
reactant | 4-(trifluoromethyl)-1H-pyrazole | 5.62 mmol, 766 mg | FC(C=1C=NNC1)(F)F | C4H3F3N2
reactant | potassium carbonate | 15.3 mmol, 2.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 3-methyl-1-(6-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyridin-3-yl)butan-1-one | 1.4 g | CC(CC(=O)C=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)C | C14H14F3N3O
